US07230024B2
Preparaton of Intermediate 4-Bromomethyl-1-(2-chloro-phenyl)-5-(4-chloro-phenyl)-1H-pyrazole-3-carboxylic acid ethyl ester (I-4b)
A mixture of 1-(2-chloro-phenyl)-5-(4-chloro-phenyl)-4-methyl-1H-pyrazole-3-carboxylic acid ethyl ester I-4a (2.8 g, 7.46 mmol), N-bromosuccinimide (1.6 g, 8.95 mmol), AlBN (245 mg, 1.49 mmol) in CCl4 (60 ml) was heated under reflux for 17 hours. The reaction was cooled to room temperature, filtered to remove any solids, and concentrated under vacuum. The crude residue was purified via silica gel chromatorgraphy (Flash 40) using a solvent gradient of 10% EtOAc/hexanes to 20% EtOAc/hexanes to give the desired product (I-4b) as an amorphous solid (2.2 g, 64%): +APCI MS (M+1) 455.0.

reactant | 1-(2-chloro-phenyl)-5-(4-chloro-phenyl)-4-methyl-1H-pyrazole-3-carboxylic acid ethyl ester | C(C)OC(=O)C1=NN(C(=C1C)C1=CC=C(C=C1)Cl)C1=C(C=CC=C1)Cl | C19H16Cl2N2O2
reactant | N-bromosuccinimide | 8.95 mmol, 1.6 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | CCl4 | 60 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 4-Bromomethyl-1-(2-chloro-phenyl)-5-(4-chloro-phenyl)-1H-pyrazole-3-carboxylic acid ethyl ester | 2.2 g, 64% | C(C)OC(=O)C1=NN(C(=C1CBr)C1=CC=C(C=C1)Cl)C1=C(C=CC=C1)Cl | C19H15BrCl2N2O2
